US04059573
Diphenylmethyl (5R,6R)-2,2-dimethyl-6-phenoxyacetamidopenam-3-carboxylate
To a solution of potassium (5R,6R)-2,2-dimethyl-6-phenoxyacetamidopenam-3-carboxylate (10 g, 25.7 mM) and phenoxyacetic acid (2 g, 13.1 mM) in water (100 ml) was added a solution of diphenyldiazomethane (5.2 g, 27 mM) in dichloromethane (100 ml). The pH was adjusted to 4.0 and the mixture stirred for 10 minutes. After separation, the solvent was washed with water (100 ml), 5% w/v sodium bicarbonate solution (100 ml) and water (100 ml). The solvent was removed in vacuo to give the title compound (11.4 g).

reactant | potassium (5R,6R)-2,2-dimethyl-6-phenoxyacetamidopenam-3-carboxylate | 25.7 mM, 10 g | CC1(S[C@H]2N(C1C(=O)[O-])C([C@H]2NC(COC2=CC=CC=C2)=O)=O)C.[K+]
reactant | phenoxyacetic acid | 13.1 mM, 2 g | O(C1=CC=CC=C1)CC(=O)O | C8H8O3
reactant | diphenyldiazomethane | 27 mM, 5.2 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | water | 100 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Diphenylmethyl (5R,6R)-2,2-dimethyl-6-phenoxyacetamidopenam-3-carboxylate | 11.4 g | CC1(S[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(COC2=CC=CC=C2)=O)=O)C | C29H28N2O5S
